US05021481
4-Benzoyloxy-1-cyclohexyloxy-2,2,6,6-tetramethylpiperidine
A mixture of 10.5 grams (40.2 mmol) of 4-benzoyloxy2,2,6,6 tetramethylpiperidine, 16.1 grams (160.8 mmol) of 90% tert-butyl hydroperoxide, 600 mg of molybdenum trioxide and 60 ml of cyclohexane is placed in a Fischer-Porter pressure bottle (under a nitrogen atmosphere in an oil bath. The bath temperature is gradually increased to 135° C. over a 2.25 hour period and then maintained at 135° C. for another 2.25 hours till the red color of the N-oxyl intermediate is discharged. Solids are removed by filtration. The cyclohexane solution is washed twice with water, washed with saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to yield an oil. Purification of the oil by flash chromatography (silica gel; 100:3 heptane:ethyl acetate) affords 12.8 grams of the title compound.

reactant | 4-benzoyloxy2,2,6,6 tetramethylpiperidine | 40.2 mmol, 10.5 grams | C(C1=CC=CC=C1)(=O)OC1CC(NC(C1)(C)C)(C)C | C16H23NO2
reactant | tert-butyl hydroperoxide | 160.8 mmol, 16.1 grams | C(C)(C)(C)OO | C4H10O2
reactant | cyclohexane | 60 ml | C1CCCCC1 | C6H12
catalyst | molybdenum trioxide | 600 mg | [Mo](=O)(=O)=O
product | 4-Benzoyloxy-1-cyclohexyloxy-2,2,6,6-tetramethylpiperidine | 12.8 grams | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C | C22H33NO3
